data/oMe_Silver.jsonl
{"reaction_id": "NR-221_1-C_2-C(C)(C)C","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(C)(C(C)(C)C)"],"products_smiles": ["C1(C)(C(C)(C)C)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C(C)(C)C)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of C and C(C)(C)C, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(C)(C(C)(C)C)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(C)(C(C)(C)C)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
{"reaction_id": "NR-129_1-c1ccc(OC)cc1_2-C1CCCCC1","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["c1ccc(OC)cc1Br","C1CCCCC1[Mg]Br"],"products_smiles": ["c1ccc(OC)cc1C1CCCCC1"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](c1ccc(OC)cc1)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to c1ccc(OC)cc1."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](c1ccc(OC)cc1)C1CCCCC1","rationale": "The nucleophilic C1CCCCC1–MgBr transfers C1CCCCC1 to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1ccc(OC)cc1C1CCCCC1","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between c1ccc(OC)cc1 and C1CCCCC1, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
{"reaction_id": "NR-113_1-C(C)(C)C_2-CCCC(C)C_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-CC_5-c1ccccc1","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(C(C)(C)C)#[N+][O-]","CCCC(C)C/C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(/CC)c1ccccc1"],"products_smiles": ["C1(C(C)(C)C)=NOC(CC)(c1ccccc1)C1(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(C)(C)C)=NOC(CC)(c1ccccc1)C1(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
